US05763144
Preparation of 1-[4-(1,1-dioxo-thiomorpholin-4-yl)-phenoxy]-3-(isotridecyloxy)-propan-2-ol (103)
4-(1,1-dioxo-thiomorpholin-4-yl)phenol (2.3 g, 10 mmol), isotridecylglycidyl ether (2.6 g, 10 mmol) and ethyltriphenylphosphonium bromide (0.1 g) are reacted and purified as described for compound 102 to afford a light yellow liquid 2.4 g (50%).

reactant | 4-(1,1-dioxo-thiomorpholin-4-yl)phenol | 10 mmol, 2.3 g | O=S1(CCN(CC1)C1=CC=C(C=C1)O)=O | C10H13NO3S
reactant | isotridecylglycidyl ether | 10 mmol, 2.6 g | C(CCCCCCCCCC(C)C)OCC1CO1 | C16H32O2
catalyst | ethyltriphenylphosphonium bromide | 0.1 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-[4-(1,1-dioxo-thiomorpholin-4-yl)-phenoxy]-3-(isotridecyloxy)-propan-2-ol | 2.4 g, 50% | O=S1(CCN(CC1)C1=CC=C(OCC(COCCCCCCCCCCC(C)C)O)C=C1)=O | C26H45NO5S
